US08017602B2
Step i) N-Cyclohexyl-N-(2,2-dimethoxyethyl)-3-(3-(1-ethyl-1H-imidazol-2-yl)phenethoxy)propanamide
Ethylamine (70% in water, 0.526 mL), followed by oxalaldehyde (40% in water, 0.889 mL) and ammonium acetate (473 mg) were added to a stirred solution of N-cyclohexyl-N-(2,2-dimethoxyethyl)-3-(3-formylphenethoxy)propanamide [Example 10, Step ii)] (400 mg) in methanol (3 mL). The mixture was stirred for 36 h. DCM was added and the mixture was washed with water. The volatiles were removed under vacuum and the crude product was purified by flash silica chromatography, elution gradient 50%-100% ethyl acetate in isohexane to afford the subtitled compound (98 mg). 1H NMR (400 MHz, CD3OD) δ 7.42-7.31 (m, 4H), 7.22 (d, J=1.5 Hz, 1H), 7.02 (d, J=1.3 Hz, 1H), 4.54 and 4.39 (2×t, J=5.5 Hz, 1H), 4.06-3.98 and 3.70-3.62 (2×m, 1H), 4.06 (q, J=7.3 Hz, 2H), 3.74-3.63 (m, 4H), 3.39-3.25 (m, 2H), 3.36 (s, 3H), 3.34 (s, 3H), 2.93-2.88 (m, 2H), 2.69-2.61 (m, 2H), 1.82-1.02 (m, 10H), 1.34 (t, J=6.8 Hz, 3H); a ˜1:1 mixture of rotamers is observed.

reactant | Ethylamine | 0.526 mL | C(C)N | C2H7N
reactant | oxalaldehyde | 0.889 mL | C(C=O)=O | C2H2O2
reactant | ammonium acetate | 473 mg | C(C)(=O)[O-].[NH4+]
reactant | N-cyclohexyl-N-(2,2-dimethoxyethyl)-3-(3-formylphenethoxy)propanamide | C1(CCCCC1)N(C(CCOCCC1=CC(=CC=C1)C=O)=O)CC(OC)OC | C22H33NO5
solvent | methanol | 3 mL | CO | CH4O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | N-Cyclohexyl-N-(2,2-dimethoxyethyl)-3-(3-(1-ethyl-1H-imidazol-2-yl)phenethoxy)propanamide | 98 mg | C1(CCCCC1)N(C(CCOCCC1=CC(=CC=C1)C=1N(C=CN1)CC)=O)CC(OC)OC | C26H39N3O4
